US06762205B1
The procedure of Preparation Example 2 was repeated, except that 71 mg of 4-cyano-N-(4-methoxybenzyl)-N-methylbenzamide was used in place of 4′-methoxy-2-biphenylacetonitrile, and toluene was used in place of methylene chloride. The resulting crude product was purified by TLC (using a 4:1 mixture of chloroform and acetone as the developing solvent) to obtain 53 mg of 4-cyano-N-(4-hydroxybenzyl)-N-methylbenzamide.

reactant | 4-cyano-N-(4-methoxybenzyl)-N-methylbenzamide | 71 mg | C(#N)C1=CC=C(C(=O)N(C)CC2=CC=C(C=C2)OC)C=C1 | C17H16N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-N-(4-hydroxybenzyl)-N-methylbenzamide | 53 mg | C(#N)C1=CC=C(C(=O)N(C)CC2=CC=C(C=C2)O)C=C1 | C16H14N2O2
